US04119710
1-(4'-Amino-3',5'-dicyano-phenyl)-2-cyclobutylamino-ethanol,
m.p. of the hydrochloride: 258° C. (decomp.), was prepared from 4'-amino-2-cyclobutylamino-3',5'-dicyano-acetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-cyclobutylamino-3',5'-dicyano-acetophenone | NC1=C(C=C(C=C1C#N)C(CNC1CCC1)=O)C#N | C14H14N4O
product | 1-(4'-Amino-3',5'-dicyano-phenyl)-2-cyclobutylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC1CCC1)O)C#N | C14H16N4O
